US07906517B2
2-{[(3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-benzoic acid (250 mg) is dissolved in tetrahydrofuran (5 ml), and thereto are added tert-butyl 3-ethylamino-propionate (103 mg), 1-hydroxybenzotriazole dihydrate (81 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (114 mg) and triethylamine (83 μl), and the mixture is stirred at room temperature overnight. To the reaction solution are added water and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→4:1) to give tert-butyl 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-benzoyl)-ethyl-amino]-propionate (310 mg). MS (m/z): 757/759 [M+H]+

reactant | 2-{[(3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-benzoic acid | 250 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC2=C(C(=O)O)C=CC(=C2)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C22H13BrF9N3O2
reactant | tert-butyl 3-ethylamino-propionate | 103 mg | C(C)NCCC(=O)OC(C)(C)C | C9H19NO2
reactant | 1-hydroxybenzotriazole dihydrate | 81 mg | O.O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 114 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | triethylamine | 83 μl | C(C)N(CC)CC | C6H15N
product | tert-butyl 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-benzoyl)-ethyl-amino]-propionate | 310 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC2=C(C(=O)N(CCC(=O)OC(C)(C)C)CC)C=CC(=C2)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C31H30BrF9N4O3
